US09029531B2
Step B: methyl 2-(6-(3,3-difluoroazetidin-1-yl)pyridin-3-yl)acetate
To a sealed microwave reaction vessel containing methyl 2-(6-chloropyridin-3-yl)acetate (200 mg, 1.08 mmol), 3,3-difluoroazetidine hydrochloride (154 mg, 1.19 mmol), Xantphos (93 mg, 0.162 mmol), Cs2CO3 (1.054 g, 3.23 mmol), and Pd2(dba)3 (99.0 mg, 0.11 mmol) was added 3.0 ml of dioxane. The reaction mixture was microwave radiated at 90 C for 60.0 min. It was cooled to room temperature and diluted with CH2Cl2 (20.0 ml). The suspension was filtered, washed with CH2Cl2 (3×10.0 ml), and the filtrate was washed with water and brine. The organic layer was dried over anhydrous Na2SO4, filtered. The filtrate was concentrated. The residue was purified by a standard method to give the title compound.

reactant | methyl 2-(6-chloropyridin-3-yl)acetate | 1.08 mmol, 200 mg | ClC1=CC=C(C=N1)CC(=O)OC | C8H8ClNO2
reactant | 3,3-difluoroazetidine hydrochloride | 1.19 mmol, 154 mg | Cl.FC1(CNC1)F
reactant | Xantphos | 0.162 mmol, 93 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | Cs2CO3 | 3.23 mmol, 1.054 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | CH2Cl2 | 20.0 ml | C(Cl)Cl | CH2Cl2
catalyst | Pd2(dba)3 | 0.11 mmol, 99.0 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | dioxane | 3.0 ml | O1CCOCC1 | C4H8O2
product | methyl 2-(6-(3,3-difluoroazetidin-1-yl)pyridin-3-yl)acetate | FC1(CN(C1)C1=CC=C(C=N1)CC(=O)OC)F | C11H12F2N2O2
